US06891038B2
Preparation of 1,3-Dimethyl-3-Carboethoxy-Spiro-(Indoline-2,3′-(3H)-Naphtho[2,1-b]-(1,4)-Oxazine)
A solution of 1-nitroso-2-naphthol (0.50 g, 2.89 mmol) and 1,3-dimethyl-3-carboethoxy-2-methylene-indoline (0.87 g, 2.77 mmol) in ethanol (70 ml) was heated under nitrogen and refluxed for 2 hrs. The solvent was then evaporated and the residue was chromatographed over silica (ethyl acetate/petroleum ether 1:10). After crystallization in ethanol, the yield of the pure product (colorless crystals) was 0.21 g (16%).

reactant | 1-nitroso-2-naphthol | 2.89 mmol, 0.50 g | N(=O)C1=C(C=CC2=CC=CC=C12)O | C10H7NO2
reactant | 1,3-dimethyl-3-carboethoxy-2-methylene-indoline | 2.77 mmol, 0.87 g | CN1C(C(C2=CC=CC=C12)(C(=O)OCC)C)=C | C14H17NO2
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 1,3-Dimethyl-3-Carboethoxy-Spiro-(Indoline-2,3′-(3H)-Naphtho[2,1-b]-(1,4)-Oxazine) | CN1C2=CC=CC=C2C(C12C=NC1=C(O2)C=CC2=CC=CC=C21)(C(=O)OCC)C | C24H22N2O3
